US07605272B2
(1H-Indazol-3-ylmethyl)triphenylphosphonium bromide (2.5 g, 5.30 mmol) was dissolved in methanol (40 mL) and the solution was added with 2-formylbenzoic acid methyl ester (954 mg, 5.80 mmol) and potassium carbonate (2.20 g, 15.8 mmol), followed by stirring at room temperature for 2.5 hours. The reaction mixture was added with water and the precipitated solid was collected by filtration. The solid was added with 2 mol/L aqueous sodium hydroxide solution (75 mL) and heated under reflux in THF (50 mL). The mixture was extracted with ethyl acetate and the aqueous layer was neutralized by 6 mol/L hydrochloric acid. The precipitated solid was collected by filtration and the obtained solid was dried to obtain (E)-2-[2-(1H-indazol-3-yl)vinyl]benzoic acid (500 mg, 36%).

reactant | (1H-Indazol-3-ylmethyl)triphenylphosphonium bromide | 5.30 mmol, 2.5 g | [Br-].N1N=C(C2=CC=CC=C12)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 2-formylbenzoic acid methyl ester | 5.80 mmol, 954 mg | COC(C1=C(C=CC=C1)C=O)=O | C9H8O3
reactant | potassium carbonate | 15.8 mmol, 2.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methanol | 40 mL | CO | CH4O
product | (E)-2-[2-(1H-indazol-3-yl)vinyl]benzoic acid | 500 mg, 36% | N1N=C(C2=CC=CC=C12)/C=C/C1=C(C(=O)O)C=CC=C1 | C16H12N2O2
